US09145354B2
Step 1 A stirred suspension of tert-butyl acetoacetate (2.1 mL, 12.6 mmol), 1,2-dibromoethane (1.14 mL, 13.3 mmol) and potassium carbonate (3.49 g, 25.3 mmol) in acetone (50.6 mL) was heated to 55° C. over a weekend. Upon cooling the mixture was diluted with Et2O and washed with water (×2). The organic phase was dried (Na2SO4), filtered and concentrated. Biotage column (40+M) eluting with a gradient of 0% Et2O/petrol to 20% Et2O/petrol gave tert-butyl 1-acetylcyclopropane-1-carboxylate, 0.78 g, 29%. 1H NMR (400 MHz, CDCl3): 2.46 (3H, s), 1.51 (9H, s), 1.43-1.38 (4H, m).

reactant | tert-butyl acetoacetate | 12.6 mmol, 2.1 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 1,2-dibromoethane | 13.3 mmol, 1.14 mL | BrCCBr | C2H4Br2
reactant | potassium carbonate | 25.3 mmol, 3.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50.6 mL | CC(=O)C | C3H6O
solvent | Et2O | CCOCC | C4H10O
product | tert-butyl 1-acetylcyclopropane-1-carboxylate | C(C)(=O)C1(CC1)C(=O)OC(C)(C)C | C10H16O3
